2175-02-15 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Transfer to unit for hypotension, PEA arrest, and
   arterial bleed from LUE fistula
   24 Hour Events:
 INVASIVE VENTILATION - START [**2175-2-14**] 07:07 PM
 MULTI LUMEN - START [**2175-2-14**] 08:26 PM
   - Transplant surgery will staff with attending regarding AVF surgical
   intervention; they are aware that we will plan to extubate today
   - Unable to obtain ICU consent from patient
   - Intermittent episodes of apnea this AM
   Allergies:
   Penicillins
   Unknown;
   Ace Inhibitors
   Laryngeal Edema
   Losartan
   Laryngeal Edema
   Last dose of Antibiotics:
   Vancomycin - [**2175-2-14**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-15**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**77**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 79 (74 - 83) bpm
   BP: 147/63(84) {76/46(51) - 189/113(119)} mmHg
   RR: 20 (7 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,959 mL
                                                                    103 mL
   PO:
             TF:
   IVF:
                                                                    281 mL
                                                                    103 mL
   Blood products:
                                                                  2,678 mL
   Total out:
                                                                      0 mL
                                                                     35 mL
   Urine:
   NG:
   35 mL
   Stool:
   Drains:
   Balance:
                                                                  2,959 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.58/30/200/25/7
   Ve: 7.1 L/min
   PaO2 / FiO2: 500
   Physical Examination
   Gen: Responding to simple commands in native language.
   HEENT: MMM, anisocoria, Pupils reactive to light b/l
   CV: S1+, S2+, RRR, no m/r/g
   Pulm: CTA b/l, vent sounds heard
   Abd: soft, NT, ND, +BS
   Ext: No edema
   Skin: No rashes
   Neuro: Sedated when I saw her, responds to pain, moving all extremities
   spontaneously, facial movements intact.
   Labs / Radiology
   264 K/uL
   10.0 g/dL
   172 mg/dL
   9.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   58 mg/dL
   99 mEq/L
   140 mEq/L
   32
   10.3 K/uL
        [image002.jpg]
                             [**2175-2-14**]  06:53 PM
                             [**2175-2-14**]  11:22 PM
                             [**2175-2-14**]  11:39 PM
                             [**2175-2-15**]  04:08 AM
                             [**2175-2-15**]  06:32 AM
   WBC
   9.6
   14.7
   10.3
   Hct
   26.6
   34
   31.8
   28.5
   32
   Plt
   [**Telephone/Fax (3) 11325**]
   Cr
   9.2
   9.3
   9.5
   TropT
   0.21
   0.39
   TCO2
   27
   29
   Glucose
   277
   219
   172
   Other labs: PT / PTT / INR:14.4/28.5/1.2, CK / CKMB /
   Troponin-T:848/11/0.39, ALT / AST:44/78, Alk Phos / T Bili:61/0.8,
   Amylase / Lipase:/19, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:297 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.6 g/dL, LDH:342 IU/L, Ca++:9.0 mg/dL, Mg++:2.9 mg/dL, PO4:4.5
   mg/dL
   CXR
 [**2-14**], [**2-15**] unread, final read pending
   Blood culture
 [**2-15**], 1/5 cultures pending; recent cultures with coag
   positive staph
   Assessment and Plan
   76 yo female with a PMH significant for DM 2, ESRD on MWF HD, dCHF, CVA
   admitted from her nursing home with 2 days of fever, altered mental
   status, and hyperkalemia with ECG changes, who is now status post A-V
   fistula hemorrhage and PEA arrest.
   .
   # Episodes of apnea: Improving. Likely [**3-14**] severe metabolic alkalosis;
   may also be [**3-14**] residual sedating meds. Changed vent to [**11-14**] this AM.
   Goal is to wean off vent as soon as possible.
   - Repeat ABG this PM to assess metabolic alkalosis
   - Wean vent as tolerated to [**6-14**] and consider spontaneous breathing
   trial in PM
   - Limit sedation; consider propofol, haldol prn
   .
   # Shock/PEA arrest: Likely hypovolemic in the setting of acute blood
   loss from LUE AVF arteriole bleed and hypotension.  s/p cut down at
   bedside with brachial artery tied off.  CE negative x 1.  ECG with new
   conduction delay and TWI may be a result of CPR and not an etiology.
   Patient also with recent positive blood cultures, but has been negative
   while on vanc.  Likely this is not a result of septic shock. Patient
   s/p massive transfusion protocol and received 5U pRBC, 2U platelets, 2U
   FFP.
   - Continue vanc for broad gram+ coverage
   - Defer artic cooling protocol given return to baseline MS per family
   - Consider pressure support with levophed prn
   - Attempt to wean pressure support and try spontaneous breathing trial
   this AM; continue light sedation versed/fentanyl as needed
   - Follow up EKG and CE
   - Continue to trend lactate
   .
   # LUE AVF bleed: Stable. Opened spontaneously and likely etiology of
   shock/PEA arrest.  Transplant cut down at bedside and sutured artery
   and vein shut.  Currently packed and wrapped tightly.  Unclear if
   patient will need to go to OR to have this revised or if current
   suturing is appropriate.  Likely will need some type of revision.
   Probably unrealistic to salvage graft, but given emergent nature of cut
   down may need to be cleaned out and re-assessed.  Currently fibrinogen
   not low 297, INR mildly elevated at 1.3.  At this time low suspicion
   for DIC.  Will continue to monitor.
   - Follow up transplant surgery recommendations
   - Continue hemostasis with sutures, packing and ACE bandage
   - Continue to keep ACE bandage wrapped tightly and left UE elevated as
   tolerated; continue dressing changes per surgery
   - Continue to trend Hct
   - Will need emergent OR if rebleed
   - Consider desmopressin in setting of uremic platelets (will hold for
   now)
   .
   # Hyperkalemia/ESRD: Hyperkalemic to 6.9 on initial presentation with
   ECG changes. Patient received calcium gluconate, bicarb and some
   insulin during the code.  ECG in ICU without T-wave changes although
   QRS is wider than before.  K currently at 4. Will attempt temporary VIP
   line placement by IR today.
   - Plan for HD this PM following IR line placement
   - Restart home renal meds (nephrocaps, etc)
   .
   # Fever: Source at this time likely the old AV fistula site or possibly
   IJ stent.  Patient with fairly extensive fever work up that was
   unrevealing.  TEE was not done, but low suspicion for endocarditis.
   Unclear at this point it patient will need to have old AV fistula/graft
   site evaluated for infection and debrided.
   - Continue vanc for broad gram+ coverage
   - Follow up CXR, culture
   .
   # DM2: Accuchecks and ISS.
   .
   # CHF: Based on last TTE, patient with preserved LVEF and diastolic
   CHF. CXR with signs of mild fluid overload without difficulty with
   regard to oxygenation.  Currently intubated, depending on O2
   requirement may need to have HD to decrease volume.
   - Plan for HD this PM following IR line placement
   .
   # Dementia: Baseline poor mental status in setting of vascular
   dementia. Per discussion with NH staff, patient receives psychotropics
   for agitation (trazodone, citalopram, and olanzapine), as well as prn
   olanzapine.
   .
   # HTN: Hold anti-HTN due to bleed.
   .
   # Hypothyroid: Continue synthroid
   .
   # Anemia: Baseline hct of 30-35, likely secondary to ESRD.  Now with
   acute bleed as above.  See AV bleed for more info.
   -Trend hct.
   -Consider epo as outpatient.
   .
   # CVA: On aspirin as outpatient.
   -Hold in setting of bleed.
   .
   # HLD: Hold statin so not to confuse any elevation in CK.
   .
   # FEN: OG tube in place.  Hold tube feeds as plan extubation.
   # PPx: Holding hep SC in setting of bleed. Pneumoboots for DVT proph.
   PPI for ulcer proph.  Vent bundle.
   # Access: Femoral [**Last Name (LF) 2643**], [**First Name3 (LF) 178**] need to re-eval access. Can remove femoral
   [**First Name3 (LF) 2643**] if successful IR placement of VIP line.
   # Code: Full code (confirmed)
   # Contact: [**Name (NI) 4003**],[**First Name3 (LF) **] (daughter) [**Telephone/Fax (1) 11263**] (c)/[**Telephone/Fax (1) 11264**] (h)
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2175-2-14**] 08:26 PM
   18 Gauge - [**2175-2-14**] 08:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2175-02-16 07:37:00 Physician Resident Progress Note
Chief Complaint:
   Presented with ? sepsis [**3-14**] infected HD graft. Graft site ruptured (was
   aneurismal) on floor with exsanguination and PEA arrest. Non-sterile
   cut down and ligation at bedside. Massive transfusion with restoration
   of pulses and mentation at baseline per family. Now with ACE bandage on
   prior graft site. Question as to washout of site and HD access, while
   continue Abx started in outpatient context by ID for suspected graft
   infection.
   24 Hour Events:
   - Transplant surgery: [**Hospital1 **] dressing changes, Continue antibiotics, [**Month (only) 60**]
   need operative removal of fistula remains if remains febrile or
   decompensates.
   - Health Care Proxy [**Name (NI) 420**] and ICU Consent signed. Sisters witnessed
   - HCT [**Name (NI) 11327**] (29.2 -> 30.1 -> 30.2)
   - Med Reconciliation: Started Citalopram, Memantine, Risperidone QHS,
   and Simvastatin. Amlodipine/Labetalol being held.
   - IR placed HD LIne and pulled fem line which had guide wire left in
   place after code blue last night. Unable to perform HD on line,
   floating ateplase in line overnight will retry in the AM.
   Allergies:
   Penicillins
   Unknown;
   Ace Inhibitors
   Laryngeal Edema
   Losartan
   Laryngeal Edema
   Last dose of Antibiotics:
   Vancomycin - [**2175-2-14**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-16**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**77**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 87 (74 - 88) bpm
   BP: 150/62(84) {117/50(69) - 153/66(99)} mmHg
   RR: 11 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    288 mL
                  PO:
                  TF:
   IVF:
                                                                    168 mL
   Blood products:
   Total out:
                                                                     35 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                    253 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 393 (293 - 530) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 4.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   302 K/uL
   9.8 g/dL
   125 mg/dL
   10.6 mg/dL
   27 mEq/L
   4.8 mEq/L
   61 mg/dL
   97 mEq/L
   141 mEq/L
   29.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2175-2-14**]  06:53 PM
                             [**2175-2-14**]  11:22 PM
                             [**2175-2-14**]  11:39 PM
                             [**2175-2-15**]  04:08 AM
                             [**2175-2-15**]  06:32 AM
                             [**2175-2-15**]  08:09 AM
                             [**2175-2-15**]  01:25 PM
                             [**2175-2-15**]  06:08 PM
                             [**2175-2-16**]  03:30 AM
   WBC
   9.6
   14.7
   10.3
   9.0
   8.7
   Hct
   26.6
   34
   31.8
   28.5
   32
   29.2
   30.1
   30.2
   29.5
   Plt
   [**Telephone/Fax (3) 11328**]79
   302
   Cr
   9.2
   9.3
   9.5
   10.1
   10.6
   TropT
   0.21
   0.39
   0.37
   0.37
   TCO2
   27
   29
   Glucose
   277
   219
   172
   171
   125
   Other labs: PT / PTT / INR:14.4/23.9/1.2, CK / CKMB /
   Troponin-T:475/11/0.37, ALT / AST:32/42, Alk Phos / T Bili:61/0.8,
   Amylase / Lipase:/19, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:445 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:291 IU/L, Ca++:9.0 mg/dL, Mg++:3.0 mg/dL, PO4:7.0
   mg/dL
   Imaging: No new.
   Microbiology: No growth in blood cultures from [**2-14**] and [**2-15**]. Positive
   culture for S.A. from [**2-13**] and MRSA in previous culture.
   [**2175-2-13**] 7:00 am BLOOD CULTURE      1 OF 2.
      Blood Culture, Routine (Preliminary):
         STAPH AUREUS COAG +.
            Consultations with ID are recommended for all blood cultures
            positive for Staphylococcus aureus and [**Female First Name (un) **] species.
      Aerobic Bottle Gram Stain (Final [**2175-2-15**]):
         GRAM POSITIVE COCCI IN CLUSTERS.
   Assessment and Plan
   76 yo female with a PMH significant for DM 2, ESRD on MWF HD, dCHF, CVA
   admitted from her nursing home with 2 days of fever, altered mental
   status, and hyperkalemia with ECG changes, who is now status post A-V
   fistula hemorrhage and PEA arrest.
   # Infected Graft
   ID suspected infection and started vancomycin. Admitted when aneurismal
   and seeming septic. Ruptures with exsanguination ion floor. Non-sterile
   ligation and transfusion. Now ACE bandages.
   - Appreciate input from transplant about wash-out
   - Continue vancomycin
   - Need to establish other access for HD
   # Access and HD
   Presently marginally viable femoral triple lumen. Can take 200 cc rate.
   Will need alternate access, but not tunneled.
   -
   # Episodes of apnea: Improved. Likely [**3-14**] severe metabolic alkalosis;
   may also be [**3-14**] residual sedating meds. Vent now at 5/5. Goal is to
   wean off vent as soon as possible.
   - Spontaneous breathing trial in PM
   - Hold sedating meds
 back to pre-admission psychotropics
   # Shock/PEA arrest: Likely hypovolemic in the setting of acute blood
   loss from LUE AVF arteriole bleed and hypotension.  s/p cut down at
   bedside with brachial artery tied off.  CE negative x 1.  ECG with new
   conduction delay and TWI may be a result of CPR and not an etiology.
   Patient also with recent positive blood cultures, but has been negative
   while on vanc.  Likely this is not a result of septic shock. Patient
   s/p massive transfusion protocol and received 5U pRBC, 2U platelets, 2U
   FFP.
   - Continue vanc for broad gram+ coverage
   - Defer artic cooling protocol given return to baseline MS per family
   - Consider pressure support with levophed prn
   - Attempt to wean pressure support and try spontaneous breathing trial
   this AM; continue light sedation versed/fentanyl as needed
   - Follow up EKG and CE
   - Continue to trend lactate
   # LUE AVF bleed: Stable. Opened spontaneously and likely etiology of
   shock/PEA arrest.  Transplant cut down at bedside and sutured artery
   and vein shut.  Currently packed and wrapped tightly.  Unclear if
   patient will need to go to OR to have this revised or if current
   suturing is appropriate.  Likely will need some type of revision.
   Probably unrealistic to salvage graft, but given emergent nature of cut
   down may need to be cleaned out and re-assessed.  Currently fibrinogen
   not low 297, INR mildly elevated at 1.3.  At this time low suspicion
   for DIC.  Will continue to monitor.
   - Follow up transplant surgery recommendations
   - Continue hemostasis with sutures, packing and ACE bandage
   - Continue to keep ACE bandage wrapped tightly and left UE elevated as
   tolerated; continue dressing changes per surgery
   - Continue to trend Hct
   - Will need emergent OR if rebleed
   - Consider desmopressin in setting of uremic platelets (will hold for
   now)
   # Hyperkalemia/ESRD: Hyperkalemic to 6.9 on initial presentation with
   ECG changes. Patient received calcium gluconate, bicarb and some
   insulin during the code.  ECG in ICU without T-wave changes although
   QRS is wider than before.  K currently at 4. Will attempt temporary VIP
   line placement by IR today.
   - Plan for HD this PM following IR line placement
   - Restart home renal meds (nephrocaps, etc)
   # Fever: Source at this time likely the old AV fistula site or possibly
   IJ stent.  Patient with fairly extensive fever work up that was
   unrevealing.  TEE was not done, but low suspicion for endocarditis.
   Unclear at this point it patient will need to have old AV fistula/graft
   site evaluated for infection and debrided.
   - Continue vanc for broad gram+ coverage
   - Follow up CXR, culture
   # DM2: Accuchecks and ISS.
   # CHF: Based on last TTE, patient with preserved LVEF and diastolic
   CHF. CXR with signs of mild fluid overload without difficulty with
   regard to oxygenation.  Currently intubated, depending on O2
   requirement may need to have HD to decrease volume.
   - Plan for HD this PM following IR line placement
   # Dementia: Baseline poor mental status in setting of vascular
   dementia. Per discussion with NH staff, patient receives psychotropics
   for agitation (trazodone, citalopram, and olanzapine), as well as prn
   olanzapine.
   # HTN: Hold anti-HTN due to bleed.
   # Hypothyroid: Continue synthroid
   # Anemia: Baseline hct of 30-35, likely secondary to ESRD.  Now with
   acute bleed as above.  See AV bleed for more info.
   -Trend hct.
   -Consider epo as outpatient.
   # CVA: On aspirin as outpatient.
   -Hold in setting of bleed.
   # HLD: Hold statin so not to confuse any elevation in CK.
   # FEN: OG tube in place.  Hold tube feeds as plan extubation.
   # PPx: Holding hep SC in setting of bleed. Pneumoboots for DVT proph.
   PPI for ulcer proph.  Vent bundle.
   # Access: Femoral [**Last Name (LF) 2643**], [**First Name3 (LF) 178**] need to re-eval access. Can remove femoral
   [**First Name3 (LF) 2643**] if successful IR placement of VIP line.
   # Code: Full code (confirmed)
   # Contact: [**Name (NI) 4003**],[**First Name3 (LF) **] (daughter) [**Telephone/Fax (1) 11263**] (c)/[**Telephone/Fax (1) 11264**] (h)
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2175-2-14**] 08:27 PM
   Dialysis Catheter - [**2175-2-15**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-02-17 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2175-2-16**] 10:45 AM
 INVASIVE VENTILATION - STOP [**2175-2-16**] 03:51 PM
   - HD line positionally dependent. Got 300 ccs yesterday (initially 200)
   - Renal recommended right femoral PICC - in for this a.m.
   - Successfully extubated after HD - now 40% by mask
   - Some discomfort with dressing change - writting for Tylenol PO/PR PRN
   (650 QID max)
   - Right arm swollen (nurse reported this a.m.) - no PIV at this site
   - Actually reported some pain (mental status improving)
   Allergies:
   Penicillins
   Unknown;
   Ace Inhibitors
   Laryngeal Edema
   Losartan
   Laryngeal Edema
   Last dose of Antibiotics:
   Vancomycin - [**2175-2-16**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-17**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**77**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 87 (79 - 89) bpm
   BP: 168/76(98) {138/53(77) - 180/76(98)} mmHg
   RR: 18 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.8 kg (admission): 55 kg
   Height: 60 Inch
                  Total In:
                                                                    260 mL
                  PO:
                  TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,740 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 410 (393 - 410) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ///33/
   Ve: 4.8 L/min
   Physical Examination
   Gen: Opens eyes to voice in French (speaks Haitian Creole)
   HEENT: MMM, anisocoria, Pupils reactive to light b/l
   CV: S1+, S2+, RRR, no m/r/g
   Pulm: CTA b/l, vent sounds heard, breath sounds more easily appreciated
   on left.
   Abd: soft, NT, ND, +BS
   Ext: No edema
   Skin: No rashes
   Neuro: Responds to voice (with eye opening and head movement towards),
   moving all extremities spontaneously, facial movements intact. Further
   neurologic exam deferred given mental status.
   Labs / Radiology
   265 K/uL
   9.5 g/dL
   99 mg/dL
   5.7 mg/dL
   33 mEq/L
   3.4 mEq/L
   23 mg/dL
   97 mEq/L
   142 mEq/L
   28.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2175-2-14**]  11:39 PM
                             [**2175-2-15**]  04:08 AM
                             [**2175-2-15**]  06:32 AM
                             [**2175-2-15**]  08:09 AM
                             [**2175-2-15**]  01:25 PM
                             [**2175-2-15**]  06:08 PM
                             [**2175-2-16**]  03:30 AM
                             [**2175-2-16**]  09:45 AM
                             [**2175-2-16**]  06:41 PM
                             [**2175-2-17**]  03:32 AM
   WBC
   14.7
   10.3
   9.0
   8.7
   8.2
   Hct
   31.8
   28.5
   32
   29.2
   30.1
   30.2
   29.5
   28.8
   28.7
   28.5
   Plt
   [**Telephone/Fax (3) 11334**]02
   265
   Cr
   9.3
   9.5
   10.1
   10.6
   5.7
   TropT
   0.39
   0.37
   0.37
   TCO2
   29
   Glucose
   [**Telephone/Fax (3) 11335**]25
   99
   Other labs: PT / PTT / INR:14.8/27.2/1.3, CK / CKMB /
   Troponin-T:475/11/0.37, ALT / AST:25/34, Alk Phos / T Bili:65/0.4,
   Amylase / Lipase:/19, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:445 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:273 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.4
   mg/dL
   [**2175-2-11**] Blood culture; Final
 Staph aureus coag +
   [**2175-2-13**] Blood culture; Prelim
 Staph aureus coag +
   [**2175-2-14**] to [**2175-2-17**] Blood culture; Pending, no growth to date
   Assessment and Plan
   76 yo female with a PMH significant for DM 2, ESRD on MWF HD, dCHF, CVA
   admitted from her nursing home with 2 days of fever, altered mental
   status, and hyperkalemia with ECG changes, who is now status post A-V
   fistula hemorrhage and PEA arrest.
   # Infected Graft
   ID suspected infection and started vancomycin. Admitted when aneurismal
   and seeming septic. Ruptures with exsanguination ion floor. Non-sterile
   ligation and transfusion. Now ACE bandages.
   - Appreciate input from transplant about wash-out and removal of graft
   components
   - Continue vancomycin, likely for six weeks
   - Need to establish other access for HD
   # Access and HD
   Presently marginally viable femoral VIP line. Can take 200 cc rate.
   Will need alternate access, but not tunneled.
   - Continue with non-tunneled lines given intercurrent infection
   - Tunneled line and perhaps new AV fistula in future for continuing HD
   - Follow renal and transplant recs with respect to HD access
   # Hyperkalemia/ESRD: Hyperkalemic, elevated creatinine and
   hyperphosphatemic on admission.  All will improve with dialysis.
   - Plan for HD this PM following IR line placement
   - Continue nephrocaps
   - Take off three liters today if pressure tolerates
   # Episodes of apnea: Improved. Likely [**3-14**] severe metabolic alkalosis;
   may also be [**3-14**] residual sedating meds. Vent now at 5/5. Goal is to
   wean off vent as soon as possible.
   - Spontaneous breathing trial again
   - Hold sedating meds
 back to pre-admission psychotropics
   - Hopefully off vent later today (after HD and if stable at that time)
   # Shock/PEA arrest: Secondary to rapid exsanguination. Recovered with
   transfusion. CE still negative in view of creatinine/renal failure.
   Patient s/p massive transfusion protocol and received 5U pRBC, 2U
   platelets, 2U FFP. Cooling was deferred in view of patient
s mental
   status
 baseline after resuscitation per family.
   - Continue vanc for broad gram+ coverage
   - No levophed unless necessary
   # LUE AVF bleed: Stable. Opened spontaneously and likely etiology of
   shock/PEA arrest.  Transplant cut down at bedside and sutured artery
   and vein shut.  Currently packed and wrapped tightly.  Unclear if
   patient will need to go to OR to have this revised or if current
   suturing is appropriate.  Likely will need some type of revision.
   Probably unrealistic to salvage graft, but given emergent nature of cut
   down may need to be cleaned out and re-assessed.  Currently fibrinogen
   not low 297, INR mildly elevated at 1.3.  At this time low suspicion
   for DIC.  Will continue to monitor.
   - Follow up transplant surgery recommendations
   - Continue hemostasis with sutures, packing and ACE bandage
   - Continue to keep ACE bandage wrapped tightly and left UE elevated as
   tolerated; continue dressing changes per surgery
   - Continue to trend Hct
   - Will need emergent OR if rebleed
   - Consider desmopressin in setting of uremic platelets (will hold for
   now)
   # Fever: Presently afebrile. Likely source of fever was graft
   infection. Need to be mindful of graft and stents nearby. Patient with
   fairly extensive fever work up that was unrevealing.  TEE was not done,
   but low suspicion for endocarditis initially
 this may seed and need
   to be checked at some point.
   - Continue vanc for broad gram+ coverage
   - Follow up cultures
   - Possible debridement and wash-out
   # DM2: Accuchecks and ISS.
   # CHF: Based on last TTE, patient with preserved LVEF and diastolic
   CHF. CXR with signs of mild fluid overload without difficulty with
   regard to oxygenation.
   - HD to take off some volume today, as tolerated by pressure
   # Dementia, Neurology and Psychiatric Mental Status: Diagnosed
   previously as multi-infarct dementia.
   - Continue memantine
   - Continue citalopram
   - Continue PRN seroquel
   # HTN: Hold anti-HTN due to bleed.
   - Holding labetalol 100 mg and amlodipine 7.5 QD
   # Hypothyroid:
   - Continue synthroid
   # Anemia: Baseline hct of 30-35, likely secondary to ESRD.  Now with
   acute bleed as above.
   - Transfusion goal 21, if end-organ hypoxia or 30 if sepsis evident
   - Consider EPO as outpatient.
   # CVA: On aspirin as outpatient.
   - Hold in setting of bleed.
   # HLD: Hold statin so not to confuse any elevation in CK.
   - Restarted statin yesterday (simva. 40 mg)
   # FEN: OG tube in place.  Hold tube feeds as plan extubation.
   # PPx: Holding heparin SC in setting of bleed. Pneumoboots for DVT
   proph.  PPI for ulcer proph.  Vent bundle.
   # Access: Femoral [**Last Name (LF) 2643**], [**First Name3 (LF) 178**] need to re-eval access. Can remove femoral
   [**First Name3 (LF) 2643**] if successful IR placement of VIP line.
   # Code: Full code (confirmed)
   # Contact: [**Name (NI) 4003**],[**First Name3 (LF) **] (daughter) [**Telephone/Fax (1) 11263**] (c)/[**Telephone/Fax (1) 11264**] (h)
   # Dispo: ICU level of care.
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 76F DM, ESRD, CVA admitted with PEA arrest /
   resp failure and hemorrhagic shock from AVF bleed. HD line placed,
   guidewire removed by IR. HCT stable, home meds restarted.
   Exam notable for Tm 99.0 BP 160/60 HR 80 RR 25 with sat 100 on PSV 5/50
   0.5 7.35/52/64 (?v). Frail woman, NAD on vent, follows commands. CTA B.
   RRR s1s2. Soft +BS. L arm dressing c/d/i. Chronic stasis changes. Labs
   notable for WBC 8K, HCT 29, K+ 4.8. BCX +MRSA. CXR with clear lungs.
   Agree with plan to manage acute respiratory failure with PSV, plan to
   extubate today following HD. Mental status stable post arrest, continue
   to hold all sedatives. For sepsis / septic shock [**3-14**] MRSE bactermia /
   AVF infection / aneurysm, continue vanco per HD protocol, transpant
   surgery following, monitor serial cultures, may need to go to OR for
   removal of infected graft material for source control. For ESRD, VIP HD
   line in placed but not functioning well; may need to be rewired or
   replaced in AM. Will slowly restart antihypertensives. Remainder of
   plan as outlined above. Patient is critically ill; total time: 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2175-2-14**] 08:27 PM
   Dialysis Catheter - [**2175-2-15**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: